### ISSUE TITLE
Truncation issue for TheoremLLAMA (and check other models for the same issue)

### ISSUE THREAD

**Issue by russellkim** [russellkim/ATP-Error-Case2#3]
## TheoremLlama
```
python LLM_theorem_proving.py --model_name "RickyDeSkywalker/TheoremLlama"
```

Ex. in output/output_hf/tocompile/mathd_algebra_478.lean
```
import Mathlib.Algebra.BigOperators.Option
import Mathlib.Data.Real.Basic
import Mathlib.Data.Complex.Basic
import Mathlib.Data.Nat.Log
import Mathlib.Data.Complex.Exponential
import Mathlib.NumberTheory.Divisors
import Mathlib.Data.ZMod.Defs
import Mathlib.Data.ZMod.Basic
import Mathlib.Topology.Basic
import Mathlib.Data.Nat.Digits

open BigOperators
open Real
open Nat
open Topology v = 65 := by


### Lean4 version of theorem and proof:<|eot_id|><|start_header_id|>assistant<|end_header_id|>


theorem mathd_algebra_478
  (b h v : ℝ)
  (h₀ : 0 < b ∧ 0 < h ∧ 0 < v)
  (h₁ : v = 1 / 3 * (b * h))
  (h₂ : b = 30)
  (h₃ : h = 13 / 2) :
  v = 65 := by
  -- This theorem calculates the volume of a cone given the area of its base and its height.
  -- The formula for the volume of a cone is V = 1/3 * B * H, where B is the area of the base and H is the height.
  -- In this case, the area of the base is 30 square units and the height is 13/2 units.
  -- Therefore, the volume of the cone is (1/3) * (30) * (13/2) = 65 cubic units.
  rw [h₂, h₃, h₁]
  ring
  -- The "rw" tactic is used to rewrite the goal using the given equalities.
  -- The "ring" tactic is used to simplify the goal using the properties of real numbers.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively.
  -- The "1/3 * (30) * (13/2)" calculation calculates the volume of the cone.
  -- The "65" result is the final answer.
  -- The "by" keyword indicates that the proof is complete.
  -- The "ring" tactic is used to simplify the goal.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively.
  -- The "1/3 * (30) * (13/2)" calculation calculates the volume of the cone.
  -- The "65" result is the final answer.
  -- The "by" keyword indicates that the proof is complete.
  -- The "ring" tactic is used to simplify the goal.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively.
  -- The "1/3 * (30) * (13/2)" calculation calculates the volume of the cone.
  -- The "65" result is the final answer.
  -- The "by" keyword indicates that the proof is complete.
  -- The "ring" tactic is used to simplify the goal.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively.
  -- The "1/3 * (30) * (13/2)" calculation calculates the volume of the cone.
  -- The "65" result is the final answer.
  -- The "by" keyword indicates that the proof is complete.
  -- The "ring" tactic is used to simplify the goal.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively.
  -- The "1/3 * (30) * (13/2)" calculation calculates the volume of the cone.
  -- The "65" result is the final answer.
  -- The "by" keyword indicates that the proof is complete.
  -- The "ring" tactic is used to simplify the goal.
  -- The "0 < b ∧ 0 < h ∧ 0 < v" hypothesis ensures that the formula for the volume of a cone is valid.
  -- The "h₂", "h₃", and "h₁" hypotheses provide the values for the area of the base, the height, and the formula for the volume of a cone, respectively
```

## Check Other models
```
python LLM_theorem_proving.py --model_name "meta-llama/Meta-Llama-3-8B-Instruct"
python LLM_theorem_proving.py --model_name "deepseek-ai/deepseek-math-7b-instruct"
python LLM_theorem_proving.py --model_name "AI-MO/NuminaMath-7B-TIR"
python LLM_theorem_proving.py --model_name "RickyDeSkywalker/TheoremLlama"
python LLM_theorem_proving.py --model_name "solar-1-mini-chat" --use_api_model
```

**Comment by russellkim** [comment]
**Original comment by russellkim**:

@Yingjia-Wan 
1)Could you show me our prompt for TheoremLlama?
2)Can we add prompt not to generate comment from TheoremLIama?

**Comment by russellkim** [comment]
**Original comment by Yingjia-Wan**:

1) prompt:

![image](https://github.com/user-attachments/assets/9cfc9cad-5cc7-4cbd-ae65-5b19ce30139e)

2) The comment doesn't hurt the compiling process actually, since the compiler can recognize -- XXX as comments.

**Comment by russellkim** [comment]
**Original comment by russellkim**:

How about removing comments in the prompt?
![CleanShot 2024-07-19 at 17 15 11@2x](https://github.com/user-attachments/assets/fc860736-6a21-4b8e-9456-930627666b3f)

>> The comment doesn't hurt the compiling process actually, since the compiler can recognize -- XXX as comments.

I want to check if we can control generating comments. (do not generate comment to reduce output token)

**Comment by russellkim** [comment]
**Original comment by Yingjia-Wan**:

Ok, I will remove the comments in the demonstration example in the prompt.

**Comment by russellkim** [comment]
**Original comment by Yingjia-Wan**:

I removed the comments in the prompt, but it looks like the model is finetuned to output comments in proving.
- prompt:
![image](https://github.com/user-attachments/assets/447abfc0-5c83-451c-82dc-d1dbdc21ee5a)

- output:
```
## Generated proof:
 v = 65 := by


### Lean4 version of theorem and proof:<|eot_id|><|start_header_id|>assistant<|end_header_id|>


theorem mathd_algebra_478
  (b h v : ℝ)
  (h₀ : 0 < b ∧ 0 < h ∧ 0 < v)
  (h₁ : v = 1 / 3 * (b * h))
  (h₂ : b = 30)
  (h₃ : h = 13 / 2) :
  v = 65 := by
  -- This theorem calculates the volume of a cone.
  -- The volume of a cone is given by the formula V = (1/3) * B * h,
  -- where B is the area of the base and h is the height.
  -- We are given that B = 30 and h = 13/2, and we want to find V.
  -- Substituting these values into the formula, we get:
  -- V = (1/3) * 30 * (13/2) = 65.
  -- Therefore, the volume of the cone is 65 cubic units.
  aesop_subst [h₀.1, h₀.2, h₀.3, h₂, h₃, h₁]
  norm_num [div_mul_cancel, sub_self, mul_comm, mul_assoc, add_left_comm]
  ring
  -- The norm_num tactic is used to normalize the expression.
  -- The ring tactic is used to solve the equation.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  -- The ring tactic is used to solve the equation.
  -- The norm_num tactic is used to normalize the expression.
  -- The div_mul_cancel tactic is used to cancel the division and multiplication.
  -- The sub_self tactic is used to simplify the expression.
  -- The mul_comm tactic is used to commute the multiplication.
  -- The mul_assoc tactic is used to associate the multiplication.
  -- The add_left_comm tactic is used to commute the addition.
  --
lean_file= output/output_hf/tocompile/mathd_algebra_478.lean
```

**Comment by russellkim** [comment]
**Original comment by russellkim**:

> I am checking other models if they have similar truncation issues in their output for compiler.

How long will it take?

**Comment by russellkim** [comment]
**Original comment by Yingjia-Wan**:

I have checked the truncation for other models. We can close this issue now.
